US06630496B1
1-Benzyl-5-(2-thienyl)-1H-indole-2-carboxylic Acid
To a sealed tube containing 2-[5-bromo-1-benzyl-1H-indole-2carboxylic acid (100 mg, 0.303 mmol) and 2-thiopheneboronic acid (116 mg, 0.909 mmol), (C6H5)4Pd (42 mg, 0.036 mmol), Na2CO3 (2,42 mmol) in a mixture of benzene-ethanol-H2O (5/1/2=v/v, 4.5 mL) was heated at 100° C. for 23 h. The mixture was poured onto diethyl ether and adjusted to pH 3 before extracting with diethyl ether. The organic layer was washed with NaH2PO4, dried over MgSO4 and evaporated to give the crude product which was purified on silica gel column (15% EtOAc in hexane with 1% HCOOH) to give 65 mg of the product.

reactant | 5-bromo-1-benzyl-1H-indole-2carboxylic acid | 0.303 mmol, 100 mg | BrC=1C=C2C=C(N(C2=CC1)CC1=CC=CC=C1)C(=O)O | C16H12BrNO2
reactant | 2-thiopheneboronic acid | 0.909 mmol, 116 mg | S1C(=CC=C1)B(O)O | C4H5BO2S
reactant | Na2CO3 | 2,42 mmol | C(=O)([O-])[O-].[Na+].[Na+]
solvent | benzene-ethanol H2O | 4.5 mL | C1(=CC=CC=C1)CCO.O
product | 1-Benzyl-5-(2-thienyl)-1H-indole-2-carboxylic Acid | 65 mg | C(C1=CC=CC=C1)N1C(=CC2=CC(=CC=C12)C=1SC=CC1)C(=O)O | C20H15NO2S
